US07183276B2
To a solution of 4-(3-chlorophenyl)oxazol-2(3H)-one (3.31 g) and acetonitrile (15 mL) was gradually added conc. sulfuric acid (5.01 g) at 0° C. To the reaction mixture was added methyl acrylate (3.05 mL) at 0° C. and the mixture was stirred at room temperature for 5 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate-tetrahydrofuran (1:1). The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and methyl 3-[4-(3-chlorophenyl)-2-oxo-2,3-dihydro-5-oxazolyl]propionate (3.0 g, 63%) was obtained as an oil from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | 4-(3-chlorophenyl)oxazol-2(3H)-one | 3.31 g | ClC=1C=C(C=CC1)C=1NC(OC1)=O | C9H6ClNO2
reactant | acetonitrile | 15 mL | C(C)#N | C2H3N
reactant | sulfuric acid | 5.01 g | S(O)(O)(=O)=O | H2O4S
reactant | methyl acrylate | 3.05 mL | C(C=C)(=O)OC | C4H6O2
solvent | Water | O | H2O
product | methyl 3-[4-(3-chlorophenyl)-2-oxo-2,3-dihydro-5-oxazolyl]propionate | 3.0 g, 63% | ClC=1C=C(C=CC1)C=1NC(OC1CCC(=O)OC)=O | C13H12ClNO4
